US08211882B2
5-Chloro-N-(3-tert-butylphenyl)-2-hydroxybenzamide (Compound 18).
This material was prepared according to the method of Example 1 using 5-chlorosalicylic acid and 3-tert-butylaniline with reagents and solvents employed in similar molar ratios. 1H NMR (500 MHz, DMSO-d6): δ 1.28 (s, 9H), 7.00 (d, 1H), 7.18 (m, 1H), 7.24 (m, 1H), 7.46 (dd, 1H), 7.56 (m, 1H), 7.68 (m, 1H), 7.95 (d, 1H), 10.38 (s, 1H), 11.90 (br s, 1H).

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 3-tert-butylaniline | C(C)(C)(C)C=1C=C(N)C=CC1 | C10H15N
product | 5-Chloro-N-(3-tert-butylphenyl)-2-hydroxybenzamide | ClC=1C=CC(=C(C(=O)NC2=CC(=CC=C2)C(C)(C)C)C1)O | C17H18ClNO2
